US09382241B2
Step 1: 3-Bromo-5-fluoro-N-(2-(pyrrolidin-1-yl)ethyl)aniline (31-A)
A solution of 3-bromo-5-fluoroaniline (CAS 134168-97-1) (380 mg, 2.0 mmol) and 1-(2-chloroethyl)pyrrolidine (CAS 505041-9) (380 mg, 2.2 mmol) in NMP (20 mL) was heated to 120° C. overnight. The solution was diluted with EtOAc (100 mL) and washed with saturated Na2CO3 aqueous solution (3×40 mL). The combined organic layer were dried over Na2SO4, concentrated and purified by prep-TLC (DCM:MeOH=10:1) to give the titled product (290 mg, 50%). LCMS (0-60 AB), RT=1.076 min, M+H, 289.0

reactant | 3-bromo-5-fluoroaniline | 2.0 mmol, 380 mg | BrC=1C=C(N)C=C(C1)F | C6H5BrFN
reactant | 1-(2-chloroethyl)pyrrolidine | 2.2 mmol, 380 mg | ClCCN1CCCC1 | C6H12ClN
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 3-Bromo-5-fluoro-N-(2-(pyrrolidin-1-yl)ethyl)aniline | 290 mg, 50% | BrC=1C=C(NCCN2CCCC2)C=C(C1)F | C12H16BrFN2
